US04786647
Preparation of 4-aminobutanoic acid cyclohexyl ester hydrochloride
GABA (8 g, 77.6 mmol) was suspended in 100 ml (0.96 mol) of cyclohexanol. Thionyl chloride (40 ml) was added dropwise to the mixture at 0° C. The mixture was then refluxed for 4 hours, cooled and crystallized from ethyl ether. The white crystals obtained in this manner were filtered and dried. NMR analysis confirmed the identity of the product.

reactant | GABA | 77.6 mmol, 8 g | C(CC(=O)O)CN | C4H9NO2
reactant | cyclohexanol | 0.96 mol, 100 ml | C1(CCCCC1)O | C6H12O
reactant | Thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-aminobutanoic acid cyclohexyl ester hydrochloride | Cl.C1(CCCCC1)OC(CCCN)=O | InChI=1S/C10H19NO2.ClH/c11-8-4-7-10(12)13-9-5-2-1-3-6-9;/h9H,1-8,11H2;1H
